US05977110
A solution of (1,4-Dioxaspiro[4.5]dec-8-yl)-acetic acid (U.S. Pat. No. 5,124,332) (20.0 g, 99.8 mmol) and triethylamine (21 mL, 149 mmol) in 200 mL of methylene chloride (CH2Cl2) was cooled to 0° C. in an ice bath and treated with isobutyl chloroformate (13.98 mL, 107.8 mmol). After stirring for 10 minutes 1-(2-pyridinyl)piperazine (17.6 g, 108 mmol) is added in 50 mL of methylene chloride. The reaction is removed from the ice bath and stirred at room temperature for 24 hours. The reaction mixture is treated with 200 mL of a saturated sodium bicarbonate solution. The aqueous layer is separated and extracted with an additional 150 mL of methylene chloride. The combined organic fractions are dried over magnesium sulfate (MgSO4), and the solvent is removed under reduced pressure to give an oil which is triturated with diethyl ether (Et2O) to give 2-(1,4-dioxaspiro[4.5]dec-8-yl)-1-[4-(2-pyridinyl)-1-piperazinyl]-ethanone (22.7 g) as a white solid.

reactant | (1,4-Dioxaspiro[4.5]dec-8-yl)-acetic acid | O1CCOC12CCC(CC2)CC(=O)O | C10H16O4
reactant | triethylamine | 149 mmol, 21 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 107.8 mmol, 13.98 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-(2-pyridinyl)piperazine | 108 mmol, 17.6 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(1,4-dioxaspiro[4.5]dec-8-yl)-1-[4-(2-pyridinyl)-1-piperazinyl]-ethanone | 22.7 g | O1CCOC12CCC(CC2)CC(=O)N2CCN(CC2)C2=NC=CC=C2 | C19H27N3O3
